US05780669
Ethyl 2-fluoro-1-cyclopropanecarboxylate
An internal glass tube was introduced into an autoclave and 0.5 g of ethyl 1-chloro-2-fluoro-1-cyclopropanecarboxylate (cis:trans=1.4:1), 0.5 ml of Raney nickel and 5 ml of ethanol were fed thereinto. Then 0.18 mg of 1,2-diaminoethane was further added and the mixture was stirred at room temperature under an elevated hydrogen gas atmosphere (10 kgf/cm2) for 48 hours. After the completion of the reaction, the catalyst was filtered off. Then the reaction mixture containing the title compound was analyzed by gas chromatography. As a result, it was found out that the reaction conversion rate was 95%, the yield was 81% and the cis:trans ratio was 0.3:1.

reactant | ethyl 1-chloro-2-fluoro-1-cyclopropanecarboxylate | 0.5 g | ClC1(C(C1)F)C(=O)OCC | C6H8ClFO2
reactant | 1,2-diaminoethane | 0.18 mg | NCCN | C2H8N2
catalyst | Raney nickel | 0.5 ml | [Ni] | Ni
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Ethyl 2-fluoro-1-cyclopropanecarboxylate | yield was 81% | FC1C(C1)C(=O)OCC | C6H9FO2
